US05496935
MS: m/z 266 (C12H14N2O6, M+), 141 (C7H9O3, sugar group), 126 (C5H6N2O2, base+H). The 1-(5-O-acetyl-2,3-dideoxy-β-D-glycero-pent-2-enofuranosyl)-thymine is dissolved in 25 mL of absolute pyridine and refluxed for 48 hours with 2 g of phosphorus pentasulfide. After cooling, the solution is decanted from the insolubles and evaporated to dryness under vacuum. The resulting residue is fractionated by column chromatography on Kieselgel 40 with chloroform as eluent. From the fractions containing the product, 265 mg of 1-(5-O-acetyl-2,3-dideoxy-β-D-glycero-pent-2-enofuranosyl)-4-thiothymine is obtained after recrystallization from methanol.

reactant | 1-(5-O-acetyl-2,3-dideoxy-β-D-glycero-pent-2-enofuranosyl)-thymine | C(C)(=O)OC[C@@H]1C=C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1 | C12H14N2O5
reactant | phosphorus pentasulfide | 2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 1-(5-O-acetyl-2,3-dideoxy-β-D-glycero-pent-2-enofuranosyl)-4-thiothymine | 265 mg | C(C)(=O)OC[C@@H]1C=C[C@@H](O1)N1C(=O)NC(=S)C(C)=C1 | C12H14N2O4S
